* PSpice Model Editor - Version 16.0.0
*$
* TL431
*****************************************************************************
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                             
** TI and its licensors and suppliers make no warranties, either expressed                                           
** or implied, with respect to this model, including the warranties of                                                    
** merchantability or fitness for a particular purpose. The model is                                                      
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer                                                                                              
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5777 W. Century Blvd., Suite 876
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: TL431
* Date: 29NOV2017
* Model Type: Transient and AC  
* Simulator: PSPICE  
* Simulator Version: 16.0.0.p001
* Datasheet: SLVS543J - AUGUST 2004 - REVISED DECEMBER 2005 
*
*****************************************************************************
*
* Updates:
*
* Final 2.10
* Modified the clamping diode parameters( Rs & N).
* Replaced the dc volatage source of 2.495 V with ABM E27.
* Modified internal feedback and reference implementation.
* Implemented internal resistors using VCVS.
* Validated the comparator open loop mode in PSpice 16.2 after model modification.
*
* Final 2.00
* Changed encrypted model to unencrypted.
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT TL431 7 6 11 
*             K A FDBK 
R_R18         0 N16955548  1 TC=0,0 
C_C17         N16955362 0  1n  
C_C18         2 6  0.5u  
D_D11         N16976181 N16975344 DCLAMP 
C_C19         3 4  0.08u  
E_E23         2 N16955404 VALUE { {I(V_V16)*15.6} }
C_C22         N16955548 0  1n  
R_R13         N16955401 N16955404  1 TC=0,0 
E_E27         VREF 0 VALUE { IF(V(11,0)<2.495,V(11,0),2.495) }
V_V16         N16955401 6 0Vdc
R_R14         0 N16955362  1 TC=0,0 
X_H8    7 N169559021 IKA 6 TL431_H8 
E_E24         4 N16955473 VALUE { {I(V_V17)*10} }
E_E28         N16955936 0 11 6 1
V_V7         N16976181 6 2
G_ABM2I2         6 N16975344 VALUE { IF((V(3)-V(6))< 0 , 1.73*(V(3)-V(6)) -1U ,
+  -1U)    }
R_R15         N16955470 N16955473  1 TC=0,0 
V_V17         N16955470 6 0Vdc
G_G4         6 2 VREF N16955936 0.11
R_R16         0 N16955493  1 TC=0,0 
D_D12         N169559021 N16975344 DCLAMP 
R_R17         N16955529 N16955532  1 TC=0,0 
C_C21         N16955493 0  1n  
E_E25         3 N16955532 VALUE { {I(V_V18)*100} }
V_V18         N16955529 2 0Vdc
V_V19         N16985445 0 0Vdc
.ENDS
*$
.subckt TL431_H8 1 2 3 4  
H_H8         3 4 VH_H8 1
VH_H8         1 2 0V
.ends TL431_H8
*$
.model DCLAMP d
+ is=1.35e-011
+ rs=0.005
+ n=0.001
+ cjo=4.5e-011
+ vj=0.75
+ m=0.302
+ tt=5.04e-008
+ bv=100
+ ibv=0.001
*$